US07968573B2
Under ice-cooling, 0.569 g of 6,8-dibromo-2-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrol-2-yl]-4H-3,1-benzoxazine-4-one, 0.20 g of hydrazine monohydrate and 2 ml of tetrahydrofuran were mixed, and the mixture was stirred at room temperature for 1 hour. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure to obtain 0.53 g of 4-bromo-N-[4,6-dibromo-2-(hydrazinocarbonyl)phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxamide of the formula:

reactant | 6,8-dibromo-2-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrol-2-yl]-4H-3,1-benzoxazine-4-one | 0.569 g | BrC=1C=C(C2=C(C(OC(=N2)C=2N(C=C(C2)Br)C2=NC=CC=C2Cl)=O)C1)Br | C17H7Br3ClN3O2
reactant | hydrazine monohydrate | 0.20 g | O.NN
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-bromo-N-[4,6-dibromo-2-(hydrazinocarbonyl)phenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxamide | 0.53 g | BrC=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)NC1=C(C=C(C=C1Br)Br)C(=O)NN | C17H11Br3ClN5O2
